US07279469B2
To 4-(5-amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-benzoic acid (4.635 g, 15.643 mmole) in tetrahydrofuran (50 mL) was added (7.12 g, 1.2 equivalents) of HBTU, followed by 2-morpholin-4-yl-ethylamine (2.24 g, 1.1 equivalents) and triethylamine (5.45 mL, 2.5 equivalents). The reaction was stirred overnight at room temperature. The solid was filtered, washing with tetrahydrofuran, cold ethanol, water, ethanol, and finally ether. The compound was dried to provide 4-(5-amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-N-(2-morpholin-4-yl-ethyl)-benzamide (1.17 g, 18% yield) as a white solid. The organic phases contained product also but was not further islolated.

reactant | 4-(5-amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-benzoic acid | 15.643 mmole, 4.635 g | NC1=NC(=NN1C1=NC=CC=C1)NC1=CC=C(C(=O)O)C=C1 | C14H12N6O2
reactant | HBTU | 7.12 g, 1.2 equivalents | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-morpholin-4-yl-ethylamine | 2.24 g, 1.1 equivalents | N1(CCOCC1)CCN | C6H14N2O
reactant | triethylamine | 5.45 mL, 2.5 equivalents | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-(5-amino-1-pyridin-2-yl-1H-[1,2,4]triazol-3-ylamino)-N-(2-morpholin-4-yl-ethyl)-benzamide | 1.17 g, 18% yield | NC1=NC(=NN1C1=NC=CC=C1)NC1=CC=C(C(=O)NCCN2CCOCC2)C=C1 | C20H24N8O2
